US08212045B2
A flask was charged with 5-bromo-3-(4-fluorophenoxy)picolinonitrile (10 g, 34 mmol) and sulfuric acid (50 mL). The reaction was stirred at ambient temperature overnight. Water (500 mL) was added carefully and the mixture was adjusted to pH 5.0 using 50% sodium hydroxide. The mixture was extracted with dichloromethane and ethyl acetate, dried and concentrated to afford 5-bromo-3-(4-fluorophenoxy)picolinamide (10.6 g, 34 mmol, 100% yield) as yellow solid.

reactant | 5-bromo-3-(4-fluorophenoxy)picolinonitrile | 34 mmol, 10 g | BrC=1C=C(C(=NC1)C#N)OC1=CC=C(C=C1)F | C12H6BrFN2O
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Water | 500 mL | O | H2O
product | 5-bromo-3-(4-fluorophenoxy)picolinamide | 34 mmol, 10.6 g, 100% yield | BrC=1C=C(C(=NC1)C(=O)N)OC1=CC=C(C=C1)F | C12H8BrFN2O2
